US05017212
A solution of 4.8 g of chlorosulfonyl isocyanate in 10 ml of tetrahydrofuran (THF) is added to a solution of 4.7 g of 2-amino-4,6-dimethoxypyrimidine in 80 ml of THF under ice cooling and stirred for 30 minutes to yield N-chlorosulfonyl-N'-(4,6-dimethoxy-2-pyrimidinyl)urea. A solution of 1.0 g of 2-methylpyrrolo[1,2-a]pyridine in 10 ml of THF and 1.0 g of aluminum chloride are added to the above mixture and stirred for an hour at room temperature. THF is distilled off. The residue after addition of water is extracted with ethyl acetate. The extract is dried and distilled to remove ethyl acetate. The residue is purified by silica gel chromatography (eluent: n-hexane-ethyl acetate) to give 0.71 g of the title compound (Compound No. 5) having mp. 197°-199° C. and 0.88 g of the title compound (Compound No. 6) having mp. 168°-169° C.

reactant | chlorosulfonyl isocyanate | 4.8 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-amino-4,6-dimethoxypyrimidine | 4.7 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 80 ml | O1CCCC1 | C4H8O
product | N-chlorosulfonyl-N'-(4,6-dimethoxy-2-pyrimidinyl)urea | ClS(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C7H9ClN4O5S
